US09278931B2
By a method similar to Example 1, Step C, 4N hydrochloric acid/ethyl acetate solution was added to N-{4-[trans-2-(benzylamino)cyclopropyl]phenyl}-3-(benzyloxy)benzamide obtained from N-[4-(trans-2-aminocyclopropyl)phenyl]-3-(benzyloxy)benzamide hydrochloride (109 mg) and benzaldehyde (29.3 μL), and the resulting solid was collected by filtration to give the title compound (96.1 mg).

reactant | hydrochloric acid ethyl acetate | 4N | Cl.C(C)(=O)OCC
reactant | N-{4-[trans-2-(benzylamino)cyclopropyl]phenyl}-3-(benzyloxy)benzamide | C(C1=CC=CC=C1)N[C@H]1[C@@H](C1)C1=CC=C(C=C1)NC(C1=CC(=CC=C1)OCC1=CC=CC=C1)=O | C30H28N2O2
reactant | benzaldehyde | 29.3 μL | C(C1=CC=CC=C1)=O | C7H6O
product | N-[4-(trans-2-aminocyclopropyl)phenyl]-3-(benzyloxy)benzamide hydrochloride | 109 mg | Cl.N[C@H]1[C@@H](C1)C1=CC=C(C=C1)NC(C1=CC(=CC=C1)OCC1=CC=CC=C1)=O | InChI=1S/C23H22N2O2.ClH/c24-22-14-21(22)17-9-11-19(12-10-17)25-23(26)18-7-4-8-20(13-18)27-15-16-5-2-1-3-6-16;/h1-13,21-22H,14-15,24H2,(H,25,26);1H/t21-,22+;/m0./s1
